US05324747
A mixture of 0.5 g (3.6 mmol) of 3-nitroaniline, 1.2 mL (3.9 mmol) of octadecyl isocyanate 0.7 mL (5 mmol) of triethylamine and 0.1 mL of 4-dimethylaminopyridine in 30 mL of anhydrous THF was stirred at reflux for 18 hours. The reaction mixture was concentrated at reduced pressure and the residue was recrystallized from THF methanol-water to give 1.3 g of N-(3-nitrophenyl)-N'-octadecylurea.

reactant | 3-nitroaniline | 3.6 mmol, 0.5 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | octadecyl isocyanate | 3.9 mmol, 1.2 mL | C(CCCCCCCCCCCCCCCCC)N=C=O | C19H37NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 0.1 mL | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-(3-nitrophenyl)-N'-octadecylurea | 1.3 g | [N+](=O)([O-])C=1C=C(C=CC1)NC(=O)NCCCCCCCCCCCCCCCCCC | C25H43N3O3
